US08076344B2
(Z)-4-tert-butyl-2-(prop-2-ynyl)cyclohexanone oxime
A mixture of 4-tert-butyl-2-prop-2-ynyl-cyclohexanone (50 mg, 0.26 mmol) (prepared as described in Dufey, P.; Bull. Soc. Chim. Fr.; 1968, 4653-4662) in 1.0 mL of ethanol was refluxed with hydroxylamine hydrochloride (25 mg, 0.36 mmol) and pyridine (0.25 mL, excess) for 3 h. The mixture was then allowed to cool to room temperature and partitioned between ethyl acetate and 3N aq. HCl. The organic layers were washed with saturated aqueous sodium chloride solution, dried over MgSO4, filtered and concentrated to give the titled compound as a light yellow solid (50 mg, 93% yield).

reactant | 4-tert-butyl-2-prop-2-ynyl-cyclohexanone | 0.26 mmol, 50 mg | C(C)(C)(C)C1CC(C(CC1)=O)CC#C | C13H20O
reactant | hydroxylamine hydrochloride | 0.36 mmol, 25 mg | Cl.NO
reactant | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | (Z)-4-tert-butyl-2-(prop-2-ynyl)cyclohexanone oxime | 50 mg, 93% yield | C(C)(C)(C)C1CC(\C(\CC1)=N/O)CC#C | C13H21NO
